US05559266
1-(Ethyloxvcarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
1-Chloroethyl ethyl carbonate (10.00 g, 66.0 mmol) was added dropwise during 1.5 hour at room temperature to a solution of potassium 5-(N-acetylamino)3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (40.00 g, 60.0 mmol) and sodium iodide (0.89 g, 6.0 mmol) in dry dimethylformamide (200 ml). After stirring at 50° C. for 24 hours the solvent was removed at reduced pressure. The residue was dissolved in chloroform (120 ml) and washed four times with a saturated sodium hydrogen carbonate solution and twice with water. After drying with magnesium sulfate, treatment with activated charcoal and filtration, the title compound was crystallised by concentrating the solution at reduced pressure. Yield: (79%). Purity by HPLC: 99%. 1H-NMR (DMSO-d6): delta=1.25 (t, J=7 Hz, CH3); 1.64 (d, J=6 Hz, CH3); 1.67 (s, N(Me)COCH3); 2.05(s, NCOCH3); 2.96 (s, NCH3); 4.21 (q, J=7 Hz, CH2); 6.97 (q, J=6 Hz, CH); 10.10 ppm (s, NH).

reactant | 1-Chloroethyl ethyl carbonate | 66.0 mmol, 10.00 g | C(OC(C)Cl)(OCC)=O | C5H9ClO3
reactant | potassium 5-(N-acetylamino)3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 60.0 mmol, 40.00 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | sodium iodide | 6.0 mmol, 0.89 g | [I-].[Na+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-(Ethyloxvcarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(C)OC(=O)OCC)I)N(C)C(C)=O)I | C17H19I3N2O7
